US04219657
(C) 8-methyldibenzothiophene-3-carboxylic acid ethyl ester
To a 500 ml. three-necked flask provided with a condenser, stirrer and dropping funnel was added 10 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) and 200 ml. of dioxane. To the solution, heated to reflux, was added at a rapid rate a solution of 5.5 g. of 8-methyl-1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester in 50 ml. of dioxane. The solution was refluxed and stirred for 20 hours, cooled to room temperature and filtered to remove the hydroquinone. The solvent was removed in vacuo on the steam bath, and the residue was dissolved in 100 ml. of methylene chloride. The solution was passed through a column containing about 75 g. of alumina (Woelm, grade I). The solvent was removed, and the residue was crystallized from methanol. The yield of 8-methyldibenzothiophene-3-carboxylic acid ethyl ester was 4.2 g., m.p. 83°-87°.

reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 8-methyl-1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2=C(SC3=C2C=C(C=C3)C)C1 | C16H18O2S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-methyldibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC2=C(SC3=C2C=C(C=C3)C)C1 | C16H14O2S
